US08604034B2
To a mixture of 7-bromo-10a-(5-methylpyrazin-2-yl)-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one (20 mg, 0.057 mmol), 3-pyridylboronic acid (9 mg, 0.073 mg) in 1,2-dimethoxyethane (0.5 mL) was added a solution of sodium carbonate (16 mg, 0.19 mmol) in water (0.15 mL) and ethanol (0.1 mL). The mixture was flushed with argon and dichlorobis(triphenylphosphine)palladium(II) (3.5 mg, 5×10−3 mmol) was added. The mixture was further degassed with argon, sealed and heated at 100° C. overnight. The following day an additional batch of 3-pyridylboronic acid (20 mg, 0.16 mmol) and dichlorobis(triphenylphosphine)palladium(II) (4 mg, 5.7×10−3 mmol) were added. The mixture was degassed, sealed and heated at 100° C. After 3 hours the reaction was complete. The mixture was then concentrated and purified by flash chromatography (Biotage SP4, gradient 1CV CH2Cl2, 0-10% MeOH in CH2Cl2 and hold 10% MeOH) to give 10a-(5-methylpyrazin-2-yl)-7-(pyridin-3-yl)-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one (15 mg, yield: 76%). 1H-NMR (400 MHz, CDCl3): δ 2.53 (s, 3H), 2.99 (dt, 1H, J 7.9 Hz), 3.35 (ddd, 1H, J 10.9, 7.5, 3.7 Hz), 3.77 (ddd, 1H, J 11.2, 7.6, 3.8 Hz), 4.00 (dt, 1H, J 11.1, 7.8 Hz), 4.26 (d, 1H, J 12.0 Hz), 4.87 (d, 1H, J 12.0 Hz), 6.87 (d, 1H, J 1.7 Hz), 7.20-7.25 (m, 2H), 7.66-7.70 (m, 1H), 8.37-8.44 (m, 3H), 8.68 (d, 1H, J 1.8 Hz).

reactant | 7-bromo-10a-(5-methylpyrazin-2-yl)-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one | 0.057 mmol, 20 mg | BrC=1C=C2N(CC3(N(C2=O)CCN3)C3=NC=C(N=C3)C)C1 | C14H14BrN5O
reactant | 3-pyridylboronic acid | 9 mg | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | sodium carbonate | 0.19 mmol, 16 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | 3-pyridylboronic acid | 0.16 mmol, 20 mg | N1=CC(=CC=C1)B(O)O | C5H6BNO2
solvent | 1,2-dimethoxyethane | 0.5 mL | COCCOC | C4H10O2
solvent | water | 0.15 mL | O | H2O
solvent | ethanol | 0.1 mL | C(C)O | C2H6O
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 5×10−3 mmol, 3.5 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 5.7×10−3 mmol, 4 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 10a-(5-methylpyrazin-2-yl)-7-(pyridin-3-yl)-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one | 15 mg, yield: 76% | CC=1N=CC(=NC1)C12N(C(C=3N(C1)C=C(C3)C=3C=NC=CC3)=O)CCN2 | C19H18N6O
